US08791123B2
(R)—N-tert-butyl-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation C, 20.0 mg, 0.058 mmol) and HATU (24.3 mg, 0.064 mmol) in dry DMF (0.4 mL) was added tert-butyl amine (12.7 mg, 0.174 mmol) followed by diisopropylethylamine (22.5 mg, 0.174 mmol). The mixture was stirred under an atmosphere of N2 for 18 hours and was added to H2O (3 mL) and mixed. The mixture was extracted with EtOAc and combined extracts were washed with 1M HCl, H2O, saturated NaHCO3 and dried over MgSO4. The solution was eluted through a SPE SiOH column eluting first with 50% EtOAc-hexanes then with EtOAc. The EtOAc pool was concentrated and the residual colorless glass was treated with hexanes give a white suspension. The hexanes were removed, and the solid was washed with hexanes and dried in vacuum to afford the title compound as a white solid (20 mg, 90%). MS (apci) m/z=400.1 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.058 mmol, 20.0 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H14F2N4O2
reactant | HATU | 0.064 mmol, 24.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl amine | 0.174 mmol, 12.7 mg | C(C)(C)(C)N | C4H11N
reactant | diisopropylethylamine | 0.174 mmol, 22.5 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | H2O | 3 mL | O | H2O
product | (R)—N-tert-butyl-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 20 mg, 90% | C(C)(C)(C)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F | C21H23F2N5O
